US04466962
Preparation of Methyl-2,3-dichloro-3-ethylthioacrylate
A solution of 270 gms of ethanethiol and 580 ml (419 gms) of triethylamine in 1 liter of methanol was slowly added to 795 gms methyl trichloroacrylate. The addition was exothermic and cooling was required. After addition, the reaction mixture was stirred at room temperature for 18 hours. At this time, an additional 20 gms of ethanethiol was added and the system stirred for an additional 2 hours. The solvent and excess ethanethiol were removed under reduced pressure. The resulting oil was dissolved in methylene chloride. The organic solution was washed with water, dried over magnesium sulfate and filtered. The methylene chloride was removed by stripping to give 860 gms of a brown liquid. The crude product was purified by vacuum distillation to give 600 gms of the methyl-2,3-dichloro-3-ethylthioacrylate (collected at 135°-145° C. at 20 mm Hg).

reactant | ethanethiol | 270 gms | C(C)S | C2H6S
reactant | triethylamine | 580 ml, 419 gms | C(C)N(CC)CC | C6H15N
reactant | methyl trichloroacrylate | 795 gms | ClC(=C(C(=O)OC)Cl)Cl | C4H3Cl3O2
solvent | methanol | 1 liter | CO | CH4O
catalyst | ethanethiol | 20 gms | C(C)S | C2H6S
product | Methyl-2,3-dichloro-3-ethylthioacrylate | 860 gms | COC(C(=C(CC)Cl)Cl)=S | C6H8Cl2OS
